US05830976
In a 500-ml three-necked flask equipped with a stirrer was placed 300 ml of THF, and 18.0 g (0.068 mol) of 4-(trans-4-ethyl-cyclohexyl)phenoxypropanol obtained in the above-mentioned manner and 11.4 ml of triethylamine were added, followed by stirring at 0° C. Afterward, a solution obtained by dissolving 15.7 g (0.068 mol) of 3,5-dinitrobenzoyl chloride in 50 ml of THF was added dropwise to the flask over 30 minutes, and under this state, reaction was carried out for 6 hours. After the completion of the reaction, this solution was poured into 1 liter of water, and extraction was then made with 1.5 liters of ethyl acetate. In succession, the resultant organic layer was washed with 3N hydrochloric acid three times, a saturated sodium bicarbonate solution three times and water. The resultant ethyl acetate layer was dried over anhydrous sodium sulfate, and the solvent was then distilled off under reduced pressure. Next, the resultant crystal was recrystallized from ethyl acetate twice to obtain 23.3 g (0.051 mol) of [4-(trans-4-ethyl-cyclohexyl)phenoxypropyl] 3,5-dinitrobenzoate. Its melting point was in the range of 108.0° to 109.4° C. The structure of this compound was confirmed by IR and NMR.

reactant | 4-(trans-4-ethyl-cyclohexyl)phenoxypropanol | 0.068 mol, 18.0 g | C(C)[C@@H]1CC[C@H](CC1)C1=CC=C(OC(CC)O)C=C1 | C17H26O2
reactant | triethylamine | 11.4 ml | C(C)N(CC)CC | C6H15N
reactant | 3,5-dinitrobenzoyl chloride | 0.068 mol, 15.7 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=C(C1)[N+](=O)[O-] | C7H3ClN2O5
reactant | water | 1 liter | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 1.5 liters | C(C)(=O)OCC | C4H8O2
product | [4-(trans-4-ethyl-cyclohexyl)phenoxypropyl] 3,5-dinitrobenzoate | 0.051 mol, 23.3 g | [N+](=O)([O-])C=1C=C(C(=O)OCCCOC2=CC=C(C=C2)[C@@H]2CC[C@H](CC2)CC)C=C(C1)[N+](=O)[O-] | C24H28N2O7
